US07166613B2
(S)-1-[2-(tert-Butoxycarbonylamino)propyl]-2,3,7,8-tetrahydrofuro[2,3-g]indole
To a stirred solution/suspension of (S)-1-[2-(tert-butoxycarbonylamino)propyl]-7,8-dihydrofuro[2,3-g]indole (565 mg, 1.79 mmol) in acetic acid (40 mL) under Ar at 5° C. was added sodium cyanoborohydride (371 mg, 5.90 mmol) and the mixture was allowed to warm to ambient temperature and stir overnight. The resultant solution was poured onto ice-water (100 mL), basified (˜pH 8–9) by the addition of 30% ammonium hydroxide, and the resultant suspension was filtered and the solid washed with ice-cold water. The crude solid was purified by flash column chromatography [SiO2; ethyl acetate-heptane (3:7)] to afford the product (412 mg, 72%) as a white solid: mp 141–142.5° C.; Found: C, 67.87; H, 8.21; N, 8.80%. C18H26N2O3 requires: C, 67.90; H, 8.23; N, 8.79%.

reactant | (S)-1-[2-(tert-butoxycarbonylamino)propyl]-7,8-dihydrofuro[2,3-g]indole | 1.79 mmol, 565 mg | C(C)(C)(C)OC(=O)N[C@H](CN1C=CC2=CC=C3C(=C12)CCO3)C | C18H24N2O3
reactant | sodium cyanoborohydride | 5.90 mmol, 371 mg | C(#N)[BH3-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | (S)-1-[2-(tert-Butoxycarbonylamino)propyl]-2,3,7,8-tetrahydrofuro[2,3-g]indole | 412 mg, 72% | C(C)(C)(C)OC(=O)N[C@H](CN1CCC2=CC=C3C(=C12)CCO3)C | C18H26N2O3
